US07981903B2
A solution of 4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone (2.5 g, 10 mmol) in tetrahydrofuran (45 mL) was treated with borane-dimethylsulfide complex (20.5 mL, 41 mmol, 2 M in THF, Acros Organics). The mixture was heated at reflux for 16 h, cooled, quenched carefully via dropwise of excess methanol, concentrated, and purified by column chromatography on SiO2 (0 to 100% ethyl acetate/dichloromethane) to obtain 4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (1.33 g, 5.63 mmol, 56%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.26 (s, 6 H), 1.58-1.65 (m, 2 H), 3.13-3.21 (m, 2 H), 3.79 (s, 3 H), 5.95 (bs, 1 H), 6.96 (s, 1 H), 7.06 (s, 1 H).

reactant | 4,4-dimethyl-6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone | 10 mmol, 2.5 g | CC1(CC(NC2=CC(=C(C=C12)OC)[N+](=O)[O-])=O)C | C12H14N2O4
reactant | borane dimethylsulfide | 41 mmol, 2 M, 20.5 mL | B.CSC
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | 4,4-dimethyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 5.63 mmol, 1.33 g, 56% | CC1(CCNC2=CC(=C(C=C12)OC)[N+](=O)[O-])C | C12H16N2O3
